US04061761
d. 3-Methyl-2-methylimino-4-(3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
3.5 g of 2-chloro-3'-sulfamoylacetophenone and 1.56 g of ground 1,3-dimethylthiourea were reacted as prescribed in Example 12 and the end product was precipitated with a mixture of 1 part of diethyl ether and 2 parts of ethyl acetate. Colorless crystals, melting point: 184° C.

reactant | 2-chloro-3'-sulfamoylacetophenone | 3.5 g | ClCC(=O)C1=CC(=CC=C1)S(N)(=O)=O | C8H8ClNO3S
reactant | 1,3-dimethylthiourea | CNC(=S)NC | C3H8N2S
product | 3-Methyl-2-methylimino-4-(3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.CN1C(SCC1(O)C1=CC(=CC=C1)S(N)(=O)=O)=NC | InChI=1S/C11H15N3O3S2.ClH/c1-13-10-14(2)11(15,7-18-10)8-4-3-5-9(6-8)19(12,16)17;/h3-6,15H,7H2,1-2H3,(H2,12,16,17);1H
